US09061013B2
1-(4-formyl-phenyl)-azetidine-3-carboxylic acid methyl ester
To a solution of 1-(4-Formyl-phenyl)-azetidine-3-carboxylic acid (Preparation 8, 4 g, 19.51 mmol) in DMF (50 mL) was added potassium carbonate (4.04 g, 29.77 mmol) at 0° C. and allowed to stir for 10 minutes followed by addition of methyl iodide (2.77 g, 19.51 mmol) at 0° C. Resulting reaction mixture was stirred at room temperature for 2 hours under nitrogen atmosphere. After consumption of starting material, reaction mixture was quenched with ice cold water (150 mL) and extracted with EtOAc (3×150 mL). Combined organic layer was washed with water (2×300 mL), brine (250 mL), dried over sodium sulphate and evaporated under reduced pressure to afford brown colored semi solid (4.7 g, crude). Crude was purified by column chromatography on silica gel (100-200 mesh). Compound was eluted using 20% ethyl acetate in hexane to afford yellow semisolid (2.6 g, 61%). 1H NMR (400 MHz, CDCl3) δ: 3.58-3.62 (m, 1H), 3.76 (s, 3H), 4.15-4.22 (m, 4H), 6.42 (d, 2H, J=8.6 Hz), 7.72 (d, 2H, J=6.98 Hz), 9.74 (s, 1H); LC-MS (M+H): =220.20.

reactant | 1-(4-Formyl-phenyl)-azetidine-3-carboxylic acid | 19.51 mmol, 4 g | C(=O)C1=CC=C(C=C1)N1CC(C1)C(=O)O | C11H11NO3
reactant | potassium carbonate | 29.77 mmol, 4.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 19.51 mmol, 2.77 g | CI | CH3I
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-(4-formyl-phenyl)-azetidine-3-carboxylic acid methyl ester | 2.6 g, 61% | COC(=O)C1CN(C1)C1=CC=C(C=C1)C=O | C12H13NO3
